US05616579
N-{4-[4-(1-Pyrrolidinylmethyl)-2-pyridyloxy]-cis-2-butenyl}pyrazole-4-carboxamide
Following a procedure similar to that described in Example 13, but using 4-[4-(1-pyrrolidinylmethyl)-2-pyridyloxy]-cis-2-butenylamine and 4-pyrazolecarboxylic acid as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as a white powder, melting at 57°-61° C., in a 34% yield.

reactant | 4-[4-(1-pyrrolidinylmethyl)-2-pyridyloxy]-cis-2-butenylamine | N1(CCCC1)CC1=CC(=NC=C1)OC\C=C/CN | C14H21N3O
reactant | 4-pyrazolecarboxylic acid | N1N=CC(=C1)C(=O)O | C4H4N2O2
product | N-{4-[4-(1-Pyrrolidinylmethyl)-2-pyridyloxy]-cis-2-butenyl}pyrazole-4-carboxamide | 34% yield | N1(CCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(=O)C=1C=NNC1 | C18H23N5O2
